*Punto 1.2
.include "./not_nand_nor_subckt.cir"

* Fuentes
vdd 1 0 {v_value}
va 2 0 pulse(0 {v_value} 20n 50p 50p 20n 40.1n)
vb 3 0 pulse(0 {v_value} 40.05n 50p 50p 40.05n 80.1n)

* XOR
x_xor_1 2 46 1 0 not
x_xor_2 3 47 1 0 not
x_xor_3 46 3 55 1 0 nand
x_xor_4 47 2 56 1 0 nand
x_xor_5 55 56 60 1 0 nand

* Carga
cload 60 0 200f

* Parametros
.param v_value = 1.5

* Modo de operacion
.tran 3ps 80.1n

.control
    set color0="white"
    set xbrushwidth=2

    run
    set curplottitle="Entradas"
    plot v(2) v(3)

    foreach valor 1000f 2000f 4000f 6000f
        alter cload = $valor
        run
        set curplottitle="XOR {$valor}"
        plot v(60) 1.35 0.75 0.15

        meas tran iave INTEG i(vdd) from=0ns to=80.1ns
        let power = -iave * 1.5 / 80.1ns ; how to access psu from here?
        print $valor
        print power
    end

.endc
.end
